US08309562B2
(2-Chloro-5,6,7,8-tetrahydro-quinazolin-4-yl)-(4-methoxy-phenyl)-methyl-amine
A mixture of 2-methoxylcarbonyl cyclohexanone 5.00 g (455 mmol) and urea 6.00 g (100.0 mmol) with 2 mL of ethanol was stirred for 48 h under reflux. After cooling, the formed crude product was washed with water and dried in vacuo to give ca.4 g of 5,6,7,8-tetrahydro-1H-quinazoline-2,4-dione. A mixture of 5,6,7,8-tetrahydro-1H-quinazoline-2,4-dione 2.00 g (12.0 mmol) and POCl3 10 mL was stirred under reflux for 3 h. After cooling, excess of POCl3 was removed under reduced pressure, and the crude product was diluted with CHCl3, which was poured into ice-water, washed with water, and dried on anhydrous MgSO4. Removal of CHCl3 gave 2,4-dichloro-5,6,7,8-tetrahydro-1H-quinazoline in 95% yield. A solution of 2,4-dichloro-5,6,7,8-tetrahydro-1H-quinazoline 0.615 g (3.0 mmol) and 4-methoxy-N-methylaniline 0.411 g (1.0 mmol) with conc. HCl 0.5 mL in iso-propanol 30 mL was stirred at 23° C. for 16 h. The solution was concentrated under reduced pressure, diluted with CH2Cl2 30 mL, washed with sat. Na2CO3 aqueous solution, and dried on anhydrous MgSO4. After removal of solvents, the crude product was purified with gradient column chromatography (EtOAc/hexanes, 0% to 60%) to give titled product in 50% yield, which was further purified with preparative HPLC to give the corresponding TFA salt. 1H NMR (CDCl3, 400 MHz): δ 7.02 (d, 2H, J=9.0 Hz), 6.86 (d, 2H, J=9.0 Hz), 3.83 (s, 3H), 3.40 (s, 3H), 2.73 (t, 2H, J=6.7 Hz), 1.62-1.68 (m, 4H), 1.44-1.49 (m, 2H). m/z: 304.1236 (M+1).

reactant | 2,4-dichloro-5,6,7,8-tetrahydro-1H-quinazoline | 3.0 mmol, 0.615 g | ClC1NC=2CCCCC2C(=N1)Cl | C8H10Cl2N2
reactant | 4-methoxy-N-methylaniline | 1.0 mmol, 0.411 g | COC1=CC=C(NC)C=C1 | C8H11NO
reactant | HCl | 0.5 mL | Cl | ClH
solvent | iso-propanol | 30 mL | C(C)(C)O | C3H8O
product | (2-Chloro-5,6,7,8-tetrahydro-quinazolin-4-yl)-(4-methoxy-phenyl)-methyl-amine | 50% yield | ClC1=NC=2CCCCC2C(=N1)N(C)C1=CC=C(C=C1)OC | C16H18ClN3O
